US06552015B2
Racemic N-{3-[3-(4-Chloro-phenyl)-8-aza-bicyclo[3.2.1]oct-2-en-8-yl]-propyl}-2,2,2-trifluoroacetamide (0.73 g, 1.96 mmol) and 20% potassium hydroxide (2.8 mL) were combined in ethanol (12 mL) and stirred at room temperature for 24 hours. Reaction was concentrated, dissolved in methylene chloride (200 mL), added sodium sulfate and stirred for 15 hours. The mix was filtered through Celite and concentrated to yield 3-[3-(4-Chloro-phenyl)-8-aza-bicyclo[3.2.1]oct-2-en-8-yl]-propylamine.

reactant | Racemic N-{3-[3-(4-Chloro-phenyl)-8-aza-bicyclo[3.2.1]oct-2-en-8-yl]-propyl}-2,2,2-trifluoroacetamide | 1.96 mmol, 0.73 g | ClC1=CC=C(C=C1)C1=CC2CCC(C1)N2CCCNC(C(F)(F)F)=O | C18H20ClF3N2O
reactant | potassium hydroxide | 2.8 mL | [OH-].[K+]
solvent | ethanol | 12 mL | C(C)O | C2H6O
product | 3-[3-(4-Chloro-phenyl)-8-aza-bicyclo[3.2.1]oct-2-en-8-yl]-propylamine | ClC1=CC=C(C=C1)C1=CC2CCC(C1)N2CCCN | C16H21ClN2
